US04659516
Butyl-lithium (0.8 ml. of a 1.6 molar solution in hexane) was added dropwise to a stirred solution of [9-(N-n-butyl-N-methylcarbamoyl)nonyl]triphenylphosphonium bromide (1.2 g.) in a mixture of dimethyl sulphoxide (2 ml.) and tetrahydrofuran (18 ml.), a solution of 3-benzyloxy-17β-hydroxyoestra-1,3,5(10),6,8(9),14(15)-hexaene-7-carboxaldehyde (0.05 g.) in tetrahydrofuran (2 ml.) was then added and the mixture was stirred at laboratory temperature for 1 hour and then evaporated to dryness under reduced pressure. Water (15 ml.) was added and the mixture was extracted three times with ethyl acetate (10 ml. each time) and the combined extracts were washed with water, dried and evaporated to dryness. The residue was purified by chromatography on a silica gel column using a 3:1 v/v mixture of petroleum ether (b.p. 60°-80° C.) and acetone as eluant. There was thus obtained as an oil 11-(3-benzyloxy-17β-hydroxyoestra-1,3,5(10),6,8(9),14(15)-hexaen-7-yl)-N-n-butyl-N-methylundec-10-enamide.

reactant | Butyl-lithium | C(CCC)[Li]
reactant | [9-(N-n-butyl-N-methylcarbamoyl)nonyl]triphenylphosphonium bromide | 1.2 g | [Br-].C(CCC)N(C(=O)CCCCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 3-benzyloxy-17β-hydroxyoestra-1,3,5(10),6,8(9),14(15)-hexaene-7-carboxaldehyde | 0.05 g | C(C1=CC=CC=C1)OC1=CC=2C=C(C=3C4=CC[C@@H]([C@@]4(C)CCC3C2C=C1)O)C=O | C26H24O3
solvent | hexane | CCCCCC | C6H14
solvent | dimethyl sulphoxide | 2 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 11-(3-benzyloxy-17β-hydroxyoestra-1,3,5(10),6,8(9),14(15)-hexaen-7-yl)-N-n-butyl-N-methylundec-10-enamide | C(C1=CC=CC=C1)OC1=CC=2C=C(C=3C4=CC[C@@H]([C@@]4(C)CCC3C2C=C1)O)C=CCCCCCCCCC(=O)N(C)CCCC | C41H53NO3
